US07417062B2
Step 1: Benzo[b]thiophen-2-ylmethyl-[2-(1-methyl-pyrrolidin-2-yl)-ethyl]-amine.
Experimental condition analogous to Example 5, from benzo[b]thiophen-2-carbaldehyde 0.18 g (1.1 mmol), 2-(1-methyl-pyrrolidin-2-yl)-ethylamine 0.14 g (1 mmol), and sodium triacethoxyborohydride 0.31 g (1.5 mmol), in 10 mL dichloromethane. Purification using silica gel chromatography, elution with dichloromethane-methanol-ammonium hydroxide, 9-1-0.25, gave 73 mg of compound.

reactant | benzo[b]thiophen-2-carbaldehyde | 1.1 mmol, 0.18 g | S1C2=C(C=C1C=O)C=CC=C2 | C9H6OS
reactant | 2-(1-methyl-pyrrolidin-2-yl)-ethylamine | 1 mmol, 0.14 g | CN1C(CCC1)CCN | C7H16N2
reactant | sodium | [Na] | Na
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | Benzo[b]thiophen-2-ylmethyl-[2-(1-methyl-pyrrolidin-2-yl)-ethyl]-amine | 73 mg | S1C2=C(C=C1CNCCC1N(CCC1)C)C=CC=C2 | C16H22N2S
